US06403610B1
0.138 g of tetrakis(triphenylphosphine)palladium, 0.046 g of cuprous iodide, and 0.42 cm3 of 1-bromo-3,5-difluorobenzene were added to a mixture, stirred at a temperature in the region of 20° C. under an inert atmosphere, of 0.95 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine -3-carboxylate in 9.5 cm3 of triethylamine. The mixture was heated at a temperature in the region of 80° C. for 3 hours. After cooling to approximately 20° C., the reaction mixture was taken up in 30 cm3 of ethyl acetate and 30 cm3 of water and stirred for 5 minutes. The organic phase was separated by settling, while the aqueous layer was extracted with 2 times 30 cm3 of ethyl acetate. The organic extracts were combined, washed with 3 times 30 cm3 of water, dried over sodium sulfate, filtered, and concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained was purified by chromatography under a nitrogen pressure of 50 kPa on a column of silica gel (particle size 20-45 μm; diameter 2.3 cm; 40 g), elution was carried out with pure ethyl acetate. 2 fractions of 100 cm3 were first collected and then 20-cm3 fractions were obtained. Fractions 8 to 40 were combined and evaporated under the above conditions. 0.967 g of methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate was obtained in the form of a foam with an orange color.

reactant | 1-bromo-3,5-difluorobenzene | 0.42 cm3 | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-(prop-2-ynyl)piperidine -3-carboxylate | 0.95 g | OC(CC[C@H]1[C@H](CN(CC1)CC#C)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C23H28N2O4
reactant | water | 30 cm3 | O | H2O
solvent | triethylamine | 9.5 cm3 | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.138 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl (3R,4R)-4-[3-(R,S)-hydroxy-3-(6-methoxyquinolin-4-yl)propyl]-1-[3-(3,5-difluorophenyl)prop-2-ynyl]piperidine-3-carboxylate | 0.967 g | OC(CC[C@H]1[C@H](CN(CC1)CC#CC1=CC(=CC(=C1)F)F)C(=O)OC)C1=CC=NC2=CC=C(C=C12)OC | C29H30F2N2O4
